### PR TITLE
feat(refinement): add reflexivity and transitivity lemmas for module refinements

### PR DESCRIPTION
**Pull request by math-fehr**
Those are simple lemmas that are needed when reasoning about refinements

### CODE REVIEW

File: Veir/Data/Refinement.lean [hunk 1]
```diff
@@ -28,3 +28,11 @@ theorem isRefinedBy_eq {w : Nat} (i i' : Veir.Data.LLVM.Int w) :
             | .val v, .val v' => v = v'
             | .val _, .poison => False
             | .poison, _ => True) := by rfl
+
+@[simp, grind .]
+theorem isRefinedBy_refl {w : Nat} (i : Veir.Data.LLVM.Int w) : i ⊑ i := by
+  grind [isRefinedBy, cases Veir.Data.LLVM.Int]
+
+theorem isRefinedBy_trans {w : Nat} {i j k : Veir.Data.LLVM.Int w}
+    (h1 : i ⊑ j) (h2 : j ⊑ k) : i ⊑ k := by
```
Comment (regehr) [inline Veir/Data/Refinement.lean]: I don't understand the role of h1 and h2 here, but the theorem looks good and useful

**Review by regehr — APPROVED** [review]
this all LGTM!

File: Veir/Data/Refinement.lean (hunk 1 above)
Comment (math-fehr) [reply Veir/Data/Refinement.lean]: So having `f : x -> y` and `f (h : x) : y` is equivalent, it's just to add a name to the lemma

Comment (ineol) [inline Veir/Data/Refinement.lean]: Please use _1 and _2 for the hypotheses

**Review by ineol — APPROVED** [review]
Except for the hypothesis names LGTM

**Review by tobiasgrosser — APPROVED** [review]
This LGTM (modulo @ineol's comment).

**Comment by math-fehr** [comment]
I removed reflexivity for function and module refinements for now.
The reason is that we do not yet have a proof that all operations "behave well", in the sense that a refinement of their input creates a refinement of their output.

**Review by GZGavinZhao — APPROVED** [review]
Nit: for the PR title, the changes fit `feat` better instead of `chore`, recommend changing it to `feat(refinement)`.

**Comment by tobiasgrosser** [comment]
> Nit: for the PR title, the changes fit `feat` better instead of `chore`, recommend changing it to `feat(refinement)`.

Done.
